US07977370B2
1-(2-(2-(4-butyl-4-(dimethylamino)-1-(3-methyl-1H-indol-2-yl)cyclohexyl)-1H-indol-3-yl)ethyl)-3-phenylurea (Example No. 32, mixture of the two possible diastereoisomers)
4-(3-(2-aminoethyl)-1H-indol-2-yl)-1-butyl-N,N-dimethyl-4-(3-methyl-1H-indol-2-yl)cyclohexylamine (120 mg, 0.255 mmol, mixture of the two possible diastereoisomers in a ratio of approx. 30:70) was mixed in acetonitrile (2.4 ml) with phenyl isocyanate (0.042 ml, 0.386 mmol). After a reaction time of 2 h at 24° C. the reaction mixture was diluted with 1N sodium hydroxide solution (20 ml) and extracted with dichloromethane (4×10 ml). The combined organic phases were dried with Na2SO4 and then filtered. The volatile constituents of the filtrate were completely removed in a vacuum. The residue (yellow solid, 150 mg) was purified by column chromatography [silica gel 60 (25 g); cyclohexane/ethyl acetate 2:1 (300 ml), ethyl acetate/methanol 1:1 (300 ml]. The product was obtained as a white solid with a yield of 115 mg (76%) (melting point 115-120° C., mixture of the two possible diastereoisomers in a ratio of approx. 25:75).

reactant | 4-(3-(2-aminoethyl)-1H-indol-2-yl)-1-butyl-N,N-dimethyl-4-(3-methyl-1H-indol-2-yl)cyclohexylamine | NCCC1=C(NC2=CC=CC=C12)C1(CCC(CC1)(CCCC)N(C)C)C=1NC2=CC=CC=C2C1C | C31H42N4
reactant | phenyl isocyanate | 0.386 mmol, 0.042 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | acetonitrile | 2.4 ml | C(C)#N | C2H3N
solvent | sodium hydroxide | 1N, 20 ml | [OH-].[Na+]
product | 1-(2-(2-(4-butyl-4-(dimethylamino)-1-(3-methyl-1H-indol-2-yl)cyclohexyl)-1H-indol-3-yl)ethyl)-3-phenylurea | C(CCC)C1(CCC(CC1)(C=1NC2=CC=CC=C2C1C)C=1NC2=CC=CC=C2C1CCNC(=O)NC1=CC=CC=C1)N(C)C | C38H47N5O
